US07494992B2
D-Phenylalanine (50 g, 0.3 mol) concentrated hydrochloric acid (386 ml), and formalin (37% wt, 113.7 ml) were heated at 95° C. with vigorous stirring for 4 h. The reaction mixture was cooled to room temperature and stirred for a further 2 h. The reaction mixture was filtered and the precipitate washed with cold water to give (3R)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid as a white solid (25 g, 42%). Benzyl alcohol (64 g) and p-toluene sulphonic acid (26.9 g) were added and the reaction mixture was refluxed in benzene (400 ml) under Dean Stark conditions. The solvent was removed in vacuo, the crude residue was triturated with diethyl ether to give a solid which was then recrystallised from water and methanol to give the title compound as a white solid (28 g, 35%).

reactant | D-Phenylalanine | 0.3 mol, 386 ml, 50 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | formalin | C=O | CH2O
product | (3R)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 25 g, 42% | C1N[C@H](CC2=CC=CC=C12)C(=O)O | C10H11NO2
